US05212187
N-[2-[N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]ethyl]-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]urea
Preparation is effected analogously to Example 63, using 0.9 g (2.9 mmol) of N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,2-ethanediamine, an equimolar amount of 1,1'-carbonyldiimidazole and 0.75 g (3.2 mmol) of 2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethaneamine as starting materials. Working up by chromatography (eluant: methylene chloride/methanol 95+5) analogously to Example 63 yields the purified title compound in the form of an oil; MS (+FAB method): m/z (rel. int.[%])=561 ([M+H]+, 3), 155 (26), 230 (100); IR (KBr): 1650 cm+1 (C=O). For analytical purposes a sample is converted into the O,O'-ditoluoyltartaric acid salt and recrystallised from ether/isopropanol; m.p.: from 140° C. with decomposition.

reactant | N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,2-ethanediamine | 2.9 mmol, 0.9 g | ClC1=CC=C(C=C1)C(CCN(CCN)C)C1=NC=CC=C1 | C17H22ClN3
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethaneamine | 3.2 mmol, 0.75 g | N(C(=N)N)C=1SC=C(N1)CSCCN | C7H13N5S2
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
product | N-[2-[N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]ethyl]-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]urea | ClC1=CC=C(C=C1)C(CCN(C)CCNC(=O)NCCSCC=1N=C(SC1)NC(=N)N)C1=NC=CC=C1 | C25H33ClN8OS2
